US06177409B1
Synthesis of the 1-glyceryl-2-methyl-3-benzyloxypyridine-4(1H)-one (known as: 2-methyl-3-benzyloxypyridine-4(1H)-one glycerol) (8)
35.6 g (165 mmol. 1.5 eq.) of 2-methyl-3-benzyloxy-4-pyranone and 10 g (110 mmol) of 1-amino-1-desoxy-glycerol are put into 600 mL of a 50:50 ethanol-water mixture; then 14 mL of an aqueous solution of soda (2N) is added. The reaction medium is then brought under reflux agitation for 48 hours. The reaction medium is left to cool, and then a solution of concentrated HCl is added to reach a pH=1. After evaporation of ethanol, the resifue is extracted using ethyl ether (3×100 mL) in order to eliminate any excess of 2-methyl-3-benzyloxy-4-pyranone. The aqueous phase is brought to neutral pH by addition of an aqueous solution of NaOH and then concentrated under reduced pressure. The residue is retaken up with a minimum of water. By precipitation, 12.7 g (43.9 mmol) of 2-methyl-3-benzyloxypyridine-4(1H)-one of glycerol is isolated, which is pure at chromatographic and NMR analyses. Yield 40%.

reactant | 2-methyl-3-benzyloxy-4-pyranone | 165 mmol, 35.6 g, 1.5 eq. | CC=1OC=CC(C1OCC1=CC=CC=C1)=O | C13H12O3
reactant | ethanol water | 600 mL | C(C)O.O
reactant | HCl | Cl | ClH
reactant | 2-methyl-3-benzyloxypyridine-4(1H)-one | 43.9 mmol, 12.7 g | CC=1NC=CC(C1OCC1=CC=CC=C1)=O | C13H13NO2
solvent | glycerol | OCC(O)CO | C3H8O3
product | 1-glyceryl-2-methyl-3-benzyloxypyridine-4(1H)-one | Yield 40% | C(C(O)CO)N1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)C | C16H19NO4
